US07851473B2
(3) 2-Methyl-1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine
To 2-methyl-1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine hydrochloride (500 mg, 1.68 mmol) was added an aqueous 1N sodium hydroxide solution (10 ml) and the mixture was extracted with chloroform. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to obtain the desired product (438 mg, 100%) as oil.

reactant | 2-methyl-1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine hydrochloride | 1.68 mmol, 500 mg | Cl.CC1N(CCNC1)C1=NC(=NS1)C1=CC=CC=C1
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
product | 2-Methyl-1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 438 mg, 100% | CC1N(CCNC1)C1=NC(=NS1)C1=CC=CC=C1 | C13H16N4S
